US04280835
Fourteen grams of 3-chloro-4-(2-naphthyloxy)phenyl isocyanate were dissolved in 60 ml of methylene chloride, and the resulting solution was added dropwise to 10 ml of an aqueous solution containing 4 g of hydroxylamine at a temperature below 20° C. Precipitated crystals were collected on a filter, washed with water and dried to obtain 13.5 g of N'-[3-chloro-4-(2-naphthyloxy)phenyl]-N-hydroxyurea. Thereafter, 13.5 g of the product was dissolved in 150 ml of a benzene-methanol (1:1) mixture, and 13 ml of dimethyl sulfate and 30 ml of 10 N sodium hydroxide were alternately added dropwise thereto at a temperature below 30° C. After stirring at room temperature, the reaction mixture was diluted with water, followed by extraction with benzene. The benzene layer was washed with water, and the solvent was removed under reduced pressure. The oily substance obtained was purified by column chromatography (silica gel, 100-120 mesh; eluting solvent, tetrahydrofuran-benzene (1:1) mixture) to obtain 7.3 g of N'-[3-chloro-4-(2-naphthyloxy)phenyl]-N-methoxy-N-methylurea. nD25.0 :1.5860.

reactant | 3-chloro-4-(2-naphthyloxy)phenyl isocyanate | Fourteen grams | ClC=1C=C(C=CC1OC1=CC2=CC=CC=C2C=C1)N=C=O | C17H10ClNO2
reactant | hydroxylamine | 4 g | NO | H3NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | N'-[3-chloro-4-(2-naphthyloxy)phenyl]-N-hydroxyurea | 13.5 g | ClC=1C=C(C=CC1OC1=CC2=CC=CC=C2C=C1)NC(NO)=O | C17H13ClN2O3
